US06200980B1
3-Methyl-6-(2-n-propoxyphenyl)-1-n-propyl-1,5-dihydro-4H-pyrazolo[3,4-d]-pyrimidin-4-one
The title compound was prepared from 3-methyl-5-(2-n-propoxybenzamido)-1-n-propylpyrazole-4-carboxamide (Preparation 7; 5.456 g, 0.0016 mol) and sodium hydroxide (3.16 g, 0.079 mol) in a mixture of water (150 ml) and ethanol (30 ml), by the method of Example 13, and was obtained as a white solid (4.863 g, 94%) after column chromatography. A sample crystallised from ethyl acetate-hexane as colourless needles, m.p. 112-114° C. Found: C,66.35; H,6.79; N,17.12. C18H22N4O2 requires C,66.24; H,6.79; N,17.17%.

reactant | 3-methyl-5-(2-n-propoxybenzamido)-1-n-propylpyrazole-4-carboxamide | 0.0016 mol, 5.456 g | CC1=NN(C(=C1C(=O)N)NC(C1=C(C=CC=C1)OCCC)=O)CCC | C18H24N4O3
reactant | sodium hydroxide | 0.079 mol, 3.16 g | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-Methyl-6-(2-n-propoxyphenyl)-1-n-propyl-1,5-dihydro-4H-pyrazolo[3,4-d]-pyrimidin-4-one | CC1=NN(C=2N=C(NC(C21)=O)C2=C(C=CC=C2)OCCC)CCC | C18H22N4O2
